### PR TITLE
[Merged by Bors] - refactor(Order/Category): concrete category refactor for basic orders

### PR DESCRIPTION
**Pull request by Vierkantor**
This PR implements `Hom` classes and `ConcreteCategory` instances for the following categories of orders:
* `Preord`
* `PartOrd`, `FinPartOrd`
* `Lat`
* `DistLat`
* `LinOrd`, `NonemptyFinLinOrd`
* `BddOrd`
* `Frm`
* `BddLat`
* `BddDistLat`, `FinBddDistLat`
* `BoolAlg`, `FinBoolAlg`
* `HeytAlg`

It also replaces `HasForget` instances with `ConcreteCategory` instances for the following categories of orders:
* `SemilatSupCat`, `SemilatInfCat`
* `SimplexCategory`

The following order categories still need to be refactored:
* `CompleteLat`
* `ωCPO`

Zulip thread: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Concrete.20category.20class.20redesign

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Vierkantor** [comment]
Most of those slowdowns are in files that grew quite a bit. Looks like `AlgebraicTopology.SimplicialSet.Nerve` got slower due to the `aesop` calls in `nerve` being slow. They can be replaced with `rfl` and become fast, but I think I'll try and figure out if I can make `aesop` faster.

File: Mathlib/Order/Category/BddOrd.lean [hunk 1]
```diff
@@ -19,74 +19,155 @@ universe u v
...
-  -- Porting note: was ⟨⟨α⟩⟩, see https://github.com/leanprover-community/mathlib4/issues/4998
-  ⟨{ α := α }⟩
+-- This is not `simp` to avoid rewriting in types of terms.
+theorem coe_of (X : Type u) [PartialOrder X] [BoundedOrder X] : (BddOrd.of X : Type u) = X := rfl
 
 @[simp]
-theorem coe_of (α : Type*) [PartialOrder α] [BoundedOrder α] : ↥(of α) = α :=
+lemma hom_id {X : BddOrd} : (𝟙 X : X ⟶ X).hom = BoundedOrderHom.id _ := rfl
+
+/- Provided for rewriting. -/
```
Comment (YaelDillies) [inline Mathlib/Order/Category/BddOrd.lean:97]: Is this meant to be a docstring?

File: Mathlib/Order/Category/DistLat.lean [hunk 2]
```diff
@@ -20,59 +20,145 @@ universe u
 
 open CategoryTheory
 
-
 /-- The category of distributive lattices. -/
-def DistLat :=
-  Bundled DistribLattice
+structure DistLat where
+  /-- The underlying distributive lattice. -/
+  (carrier : Type*)
```
Comment (YaelDillies) [inline Mathlib/Order/Category/DistLat.lean:26]:
```suggestion
  carrier : Type*
```

File: Mathlib/Order/Category/DistLat.lean [hunk 3]
```diff
@@ -20,59 +20,145 @@ universe u
...
+
+attribute [instance] DistLat.str
+
+initialize_simps_projections DistLat (carrier → coe, -str)
 
 namespace DistLat
 
-instance : CoeSort DistLat Type* :=
-  Bundled.coeSort
+instance : CoeSort DistLat (Type _) :=
```
Comment (YaelDillies) [inline Mathlib/Order/Category/DistLat.lean:35]:
```suggestion
instance : CoeSort DistLat.{u} (Type u) :=
```
might be clearer?

File: Mathlib/Order/Category/FinBoolAlg.lean [hunk 4]
```diff
@@ -96,22 +96,12 @@ instance forgetToBoolAlgFaithful : (forget₂ FinBoolAlg BoolAlg).Faithful :=
...
+  forget₂.map {X Y} f := PartOrd.ofHom f
 
 instance forgetToFinPartOrdFaithful : (forget₂ FinBoolAlg FinPartOrd).Faithful :=
-  -- Porting note: original code
-  -- ⟨fun {X Y} f g h =>
-  --   haveI := congr_arg (coeFn : _ → X → Y) h
-  --   DFunLike.coe_injective this⟩
-  -- Porting note: the coercions to functions for the various bundled order categories
-  -- are quite inconsistent. We need to go back through and make all these files uniform.
   ⟨fun {X Y} f g h => by
```
Comment (mattrobball) [inline Mathlib/Order/Category/FinBoolAlg.lean:102]: Might as well clean this up too?

File: Mathlib/Order/Category/Frm.lean [hunk 5]
```diff
@@ -22,63 +22,138 @@ universe u
...
-deriving instance LargeCategory, Category for Frm
+/- Provided for rewriting. -/
+lemma id_apply (X : Frm) (x : X) :
+    (𝟙 X : X ⟶ X) x = x := by simp
 
-instance : HasForget Frm := by
-  unfold Frm
-  infer_instance
+@[simp]
+lemma hom_comp {X Y Z : Frm} (f : X ⟶ Y) (g : Y ⟶ Z) :
```
Comment (mattrobball) [inline Mathlib/Order/Category/Frm.lean:105]: Don't you feel like there should be automation for this now?

File: Mathlib/Order/Category/Lat.lean [hunk 6]
```diff
@@ -20,68 +20,146 @@ corresponds to `BddLat`.
...
+
+/-- Typecheck a `LatticeHom` as a morphism in `Lat`. -/
+abbrev ofHom {X Y : Type u} [Lattice X] [Lattice Y] (f : LatticeHom X Y) : of X ⟶ of Y :=
+  ConcreteCategory.ofHom (C := Lat) f
 
-instance (X : Lat) : Lattice X :=
-  X.str
+variable {R} in
+/-- Use the `ConcreteCategory.hom` projection for `@[simps]` lemmas. -/
+def Hom.Simps.hom (X Y : Lat.{u}) (f : Hom X Y) :=
```
Comment (mattrobball) [inline Mathlib/Order/Category/Lat.lean:73]: Similarly automation here would help

File: Mathlib/Order/Category/BddOrd.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Order/Category/BddOrd.lean:97]: It's more of a comment explaining why this isn't marked as `@[simp]`. But we can docstringify all of these comments.

**Review by mattrobball — APPROVED** [review]

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 7]
```diff
@@ -653,10 +653,10 @@ of `NonemptyFinLinOrd` -/
 @[simps obj map]
 def skeletalFunctor : SimplexCategory ⥤ NonemptyFinLinOrd where
   obj a := NonemptyFinLinOrd.of (Fin (a.len + 1))
-  map f := f.toOrderHom
+  map f := NonemptyFinLinOrd.ofHom f.toOrderHom
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:656]: It would not work, since the expected type is `LinOrd.Hom (NonemptyFinLinOrd.toLinOrd _) (NonemptyFinLinOrd.toLinOrd _)`, not `NonemptyFinLinOrd`.

[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:656]: We could make it work if we add a `NonemptyFinLinOrd.Hom` structure. But I don't expect the extra boilerplate is worth it. Usually the relevant category's namespace is open anyway, so we can just write `ofHom`.

File: Mathlib/Order/Category/FinBoolAlg.lean (hunk 4 above)
Comment (Vierkantor) [reply Mathlib/Order/Category/FinBoolAlg.lean:102]: You mean:
```suggestion
  ⟨fun h => by
```

File: Mathlib/Order/Category/Frm.lean (hunk 5 above)
Comment (Vierkantor) [reply Mathlib/Order/Category/Frm.lean:105]: Mhm, it would be helpful although I don't quite know what form that would take. It's hard to state this inside the type theory itself, since for each base morphism (that is `FrameHom`, not `Frm.Hom`) the type of `comp` can take a different shape. Maybe a metaprogram generating all the boilerplate?

**Comment by Vierkantor** [comment]
I've been looking at `BoolAlg` and come to the conclusion that `Hom` structures for `BddLat` and `BddDistLat` would be helpful. One moment please...

**Comment by Vierkantor** [comment]
Oh, interesting. Looking at a timeout in `FinBddDistLat` suggests that I might actually be going down the wrong way with bundling instances. Namely, previously we implemented `NonemptyFinLinOrd` as a class `NonemptyFiniteLinearOrder` plus a structure bundling a type `X` with an instance `NonemptyFiniteLinearOrder X`. But now I'm getting slow equality checks on `(dual.obj (dual.obj X)).carrier = X.carrierᵒᵈᵒᵈ`. Even though these should be exactly the same thing, it ends up checking that each order class on `dual.obj X` is the same as `Xᵒᵈ`...

**Comment by Vierkantor** [comment]
> Oh, interesting. Looking at a timeout in `FinBddDistLat` suggests that I might actually be going down the wrong way with bundling instances. Namely, previously we implemented `NonemptyFinLinOrd` as a class `NonemptyFiniteLinearOrder` plus a structure bundling a type `X` with an instance `NonemptyFiniteLinearOrder X`. But now I'm getting slow equality checks on `(dual.obj (dual.obj X)).carrier = X.carrierᵒᵈᵒᵈ`. Even though these should be exactly the same thing, it ends up checking that each order class on `dual.obj X` is the same as `Xᵒᵈ`...

Nope, changing this doesn't seem to help much...

**Comment by Vierkantor** [comment]
Huh, if I turn `@[simps]` on `dual` into `@[simps map]`, it looks like aesop gets 2x faster for quite a few of the categories. (In general I think we should be more careful with `@[simps]` lemmas on `Functor.obj`s.)

**Comment by Vierkantor** [comment]
In the process of investigation I ended up adding `Hom` structures for most of the order categories anyway. Seems like a shame to waste that effort, so now they're part of the PR. Should I just include `CompleteLattice` and `ωCPO` to be complete? :)

**Comment by Vierkantor** [comment]
!bench

**Comment by kim-em** [comment]
!bench

**Comment by b-mehta** [comment]
> Huh, if I turn `@[simps]` on `dual` into `@[simps map]`, it looks like aesop gets 2x faster for quite a few of the categories. (In general I think we should be more careful with `@[simps]` lemmas on `Functor.obj`s.)

Interesting... I often find `Functor.obj` lemmas very helpful in `dsimp`, but I can see why they might be harmful in general. Indeed this isn't so surprising because these lemmas are equalities on objects, which would be evil except for the case where they're definitional. I'd view removing the "simp by rfl" lemmas on concrete `Functor.obj` as unfortunate, since these are really nice pedagogically in the typical case. I wonder if there's some modification we can make to `aesop_cat` to get the best of both worlds here?

**Comment by Vierkantor** [comment]
> Interesting... I often find `Functor.obj` lemmas very helpful in `dsimp`, but I can see why they might be harmful in general. Indeed this isn't so surprising because these lemmas are equalities on objects, which would be evil except for the case where they're definitional.

True! Although `@[simps]` is supposed to generate only definitional equalities which are not evil :) From a more mechanical perspective, the issue seems to be that we apply these kind of `Functor.obj` lemmas to our terms, but in the `simp` lemmas themselves we still see quite a few `F.obj`. If the definitional equality isn't reducible, `simp` won't see through that and we can get stuck in a non-confluent corner.

> I'd view removing the "simp by rfl" lemmas on concrete `Functor.obj` as unfortunate, since these are really nice pedagogically in the typical case. I wonder if there's some modification we can make to `aesop_cat` to get the best of both worlds here?

On the longer term, we could be using ematching instead of rewriting for our equalities, that would get rid of all of these confluence issues. For now, perhaps we can split the lemmas up into multiple simp sets: call `erase_aesop_rules` on the `Functor.obj` lemmas, but still allow them in full-on `simp`? (Have never tried removing lemmas from `aesop`, so unsure if that's the right way to go.)

**Comment by YaelDillies** [comment]
What about making a version of `simps` that only creates `dsimp` lemmas? Something like `dsimps`

**Comment by Vierkantor** [comment]
Not sure I understand. All lemmas created by `simps` are supposed to be `dsimp` lemmas already, no?

**Comment by YaelDillies** [comment]
I mean lemmas that would *only* be used simp, and not by dsimp

**Comment by Vierkantor** [comment]
Oh I see! I'm not sure that the current architecture of `simp` supports it, AFAICT `dsimp` and `simp` share the `@[simp]` attribute and filter on `SimpTheorem.rfl` when they are called. So there isn't an extra `simp` set that `dsimp` can use but `simp` doesn't.

**Comment by Vierkantor** [comment]
(Is there something I should do for this PR, by the way? The benchmark results appear to be caused by files getting longer, which we can't do too much about...)

File: Mathlib/Algebra/Category/BoolRing.lean [hunk 8]
```diff
@@ -97,23 +97,21 @@ end BoolRing
...
 instance {R : Type u} [BooleanRing R] :
     BooleanRing (BoolAlg.of (AsBoolAlg ↑R)).toBddDistLat.toBddLat.toLat :=
   inferInstanceAs <| BooleanRing R
 
 @[simps]
 instance BoolRing.hasForgetToBoolAlg : HasForget₂ BoolRing BoolAlg where
-  forget₂ :=
-    { obj := fun X ↦ BoolAlg.of (AsBoolAlg X)
-      map := fun {R S} f ↦ RingHom.asBoolAlg f.hom }
+  forget₂.obj X := BoolAlg.of (AsBoolAlg X)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Category/BoolRing.lean:108]: There are plenty of potential uses of anonymous dot notation. Would you like to act on them?
```suggestion
  forget₂.obj X := .of (AsBoolAlg X)
```

File: Mathlib/AlgebraicTopology/TopologicalSimplex.lean [hunk 9]
```diff
@@ -73,15 +73,14 @@ def toTop : SimplexCategory ⥤ TopCat where
     ext f : 1
     apply toTopObj.ext
     funext i
-    change (Finset.univ.filter (· = i)).sum _ = _
+    dsimp
     simp [Finset.sum_filter, CategoryTheory.id_apply]
```
Comment (YaelDillies) [inline Mathlib/AlgebraicTopology/TopologicalSimplex.lean:77]: Does this work?
```suggestion
    simp [Finset.sum_filter, CategoryTheory.id_apply]
```

File: Mathlib/Order/Category/BddOrd.lean [hunk 10]
```diff
@@ -19,74 +19,155 @@ universe u v
...
+  Hom.ext hf
+
+@[simp]
+lemma hom_ofHom {X Y : Type u} [PartialOrder X] [BoundedOrder X] [PartialOrder Y] [BoundedOrder Y]
+    (f : BoundedOrderHom X Y) :
+  (ofHom f).hom = f := rfl
+
+@[simp]
+lemma ofHom_hom {X Y : BddOrd} (f : X ⟶ Y) :
+    ofHom (Hom.hom f) = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Category/BddOrd.lean:120]:
```suggestion
    ofHom f.hom = f := rfl
```
or does this not work?

File: Mathlib/Order/Category/BddOrd.lean [hunk 11]
```diff
@@ -19,74 +19,155 @@ universe u v
...
+@[simp]
+lemma ofHom_comp {X Y Z : Type u} [PartialOrder X] [BoundedOrder X] [PartialOrder Y]
+    [BoundedOrder Y] [PartialOrder Z] [BoundedOrder Z]
+    (f : BoundedOrderHom X Y) (g : BoundedOrderHom Y Z) :
+    ofHom (g.comp f) = ofHom f ≫ ofHom g :=
   rfl
 
+lemma ofHom_apply {X Y : Type u} [PartialOrder X] [BoundedOrder X] [PartialOrder Y] [BoundedOrder Y]
+    (f : BoundedOrderHom X Y) (x : X) :
+    (ofHom f) x = f x := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Category/BddOrd.lean:135]:
```suggestion
    ofHom f x = f x := rfl
```

File: Mathlib/Order/Category/FinBoolAlg.lean [hunk 12]
```diff
@@ -96,37 +75,27 @@ instance forgetToBoolAlgFaithful : (forget₂ FinBoolAlg BoolAlg).Faithful :=
...
-  -- are quite inconsistent. We need to go back through and make all these files uniform.
-  ⟨fun {X Y} f g h => by
-    dsimp at *
-    apply DFunLike.coe_injective
-    dsimp
+  ⟨fun h => by
     ext x
-    apply_fun (fun f => f x) at h
-    exact h ⟩
+    exact CategoryTheory.congr_fun h x ⟩
```
Comment (YaelDillies) [inline Mathlib/Order/Category/FinBoolAlg.lean:83]: Do you want to use `where` here?

**Review by YaelDillies — APPROVED** [review]
I only have style comments.

File: Mathlib/Order/Category/BddOrd.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/Category/BddOrd.lean:97]: I'm just surprised you're using single-line multi-line comments

File: Mathlib/AlgebraicTopology/TopologicalSimplex.lean (hunk 9 above)
Comment (Vierkantor) [reply Mathlib/AlgebraicTopology/TopologicalSimplex.lean:77]: In fact, the `ext` above can also be cleaned up, thanks for making me notice :)

File: Mathlib/Algebra/Category/BoolRing.lean (hunk 8 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Category/BoolRing.lean]: I went through the diff and turned every `FooCat.of` into `.of` where it worked.

**Comment by kim-em** [comment]
bors merge

**Comment by Vierkantor** [comment]
Looks like the build failure was caused by relying on the definition of the `HasForget` instance in `SimplexCategory`. I've upgraded the usage to `ConcreteCategory`.

**Comment by PatrickMassot** [comment]
bors merge
